US08541588B2
tert-Butyl 3-{5-[2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate
tert-Butyl 3-{5-[2-hydroxy-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate, (Preparation 883, 2.20 g, 0.00574 mol), potassium carbonate (1.60 g, 0.0116 mol) and 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide, (Preparation 68, 2.50 g, 0.00575 mol) were combined in a 50 mL round bottomed flask and the flask was cooled in ice. Dimethylsulphoxide (15 mL) was added and after a few minutes the ice bath was removed and the reaction was stirred at room temperature for 3 hours under nitrogen. The reaction was diluted with water (50 mL) and extracted with tert-butylmethylether (100 mL) and the organic layer was washed with water (30 mL). The organic extracts were dried over anhydrous sodium sulphate, filtered and the solvent removed in vacuo to give the title compound as a white foam (4.76 g).

reactant | tert-Butyl 3-{5-[2-hydroxy-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | 0.00574 mol, 2.20 g | OC1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1C1CN(C1)C(=O)OC(C)(C)C | C18H20F3N3O3
reactant | potassium carbonate | 0.0116 mol, 1.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C18H15FN4O4S2
solvent | Dimethylsulphoxide | 15 mL | CS(=O)C | C2H6OS
product | tert-Butyl 3-{5-[2-(2-cyano-4-{[(2,4-dimethoxybenzyl)(1,2,4-thiadiazol-5-yl)amino]sulfonyl}phenoxy)-5-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}azetidine-1-carboxylate | 4.76 g | C(#N)C1=C(OC2=C(C=C(C=C2)C(F)(F)F)C2=CC=NN2C2CN(C2)C(=O)OC(C)(C)C)C=CC(=C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C36H34F3N7O7S2
